US06906065B2
4-Amino-5-cyano-2-(3-chloroanilino)pyrimidine
3-Chloroaniline (277 mg, 2.2 mmol) was treated with 4-amino-2-chloro-5-cyanopyrimidine (0.3 g, 2.0 mmol) by the procedure described in Example 1 to give the title compound (430 mg, 90%). NMR: 7.00 (d, 1H), 7.28 (dd, 1H), 7.55 (s, 2H), 7.70 (d, 1H), 7.89 (s, 1H), 8.38 (s, 1H), 9.81 (s, 1H); m/z 246 (MH)+.

reactant | 3-Chloroaniline | 2.2 mmol, 277 mg | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 4-amino-2-chloro-5-cyanopyrimidine | 2.0 mmol, 0.3 g | NC1=NC(=NC=C1C#N)Cl | C5H3ClN4
product | 4-Amino-5-cyano-2-(3-chloroanilino)pyrimidine | 430 mg, 90% | NC1=NC(=NC=C1C#N)NC1=CC(=CC=C1)Cl | C11H8ClN5
